US08008302B2
Step b) Formation of (2R,3S)-2-benzyl-3-hydroxysuccinic acid
Diisopropyl (2R,3S)-2-benzyl-3-hydroxysuccinate (2.90 g; 15.9 mmol; 1.0 eq.) was taken in THF (44 mL), cooled to 0° C. and was treated with KOH (3.17 g, 56.4 mmol) in water (14.5 mL). The resulting mixture was stirred at RT for 48 h. THF was removed and the residue was taken in water. The aqueous layer was washed with ether (100 mL) and was acidified with an aqueous solution of HCl (1.5 N), then was extracted with EtOAc. The combined organic layers were dried over Na2SO4 and then concentrated to give the title product as white solid (1.73 g, 82%).

reactant | Diisopropyl (2R,3S)-2-benzyl-3-hydroxysuccinate | 15.9 mmol, 2.90 g, 1.0 eq. | C(C1=CC=CC=C1)[C@@H](C(=O)OC(C)C)[C@@H](C(=O)OC(C)C)O | C17H24O5
reactant | KOH | 56.4 mmol, 3.17 g | [OH-].[K+]
solvent | THF | 44 mL | C1CCOC1 | C4H8O
solvent | water | 14.5 mL | O | H2O
product | (2R,3S)-2-benzyl-3-hydroxysuccinic acid | 1.73 g, 82% | C(C1=CC=CC=C1)[C@@H](C(=O)O)[C@@H](C(=O)O)O | C11H12O5
